US06455708B1
Preparation of 1-Fluoro-2-fluoromethyl-3-butyn-2-yl Methanesulfonate
An amount (1.2 g) of 1-fluoro-2-fluoromethyl-3-butyn-2-ol and methanesulfonyl chloride (0.85 ml) were dissolved in tert-butyl methyl ether (15 ml); to the solution under cooling with ice, triethylamine (1.5 ml) was added dropwise in a nitrogen atmosphere. After the end of the dropwise addition, the solution was stirred for 1.5 hours under cooling with ice. To the reaction mixture, tert-butyl methyl ether was added, followed by washing with water and a saturated aqueous solution of sodium chloride. The mixture was dried with anhydrous sodium sulfate and concentrated under reduced pressure to give the titled compound (1.9 g).

reactant | 1-fluoro-2-fluoromethyl-3-butyn-2-ol | 1.2 g | FCC(C#C)(O)CF | C5H6F2O
reactant | methanesulfonyl chloride | 0.85 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
solvent | tert-butyl methyl ether | 15 ml | COC(C)(C)C | C5H12O
product | 1-Fluoro-2-fluoromethyl-3-butyn-2-yl Methanesulfonate | 1.9 g | CS(=O)(=O)OC(CF)(C#C)CF | C6H8F2O3S
